US05070103
2-bromo-4,5-methylenedioxybenzaldehyde dimethylacetal and 3,4-diethoxybenzaldehyde are reacted in the same manner as described in Example 1-(1), whereby 2-(3,4-dimethoxy-α-hydroxybenzyl)-4,5-methylenedioxybenzaldehyde dimethylacetal is obtained as colorless syrup. Yield 76%

reactant | 2-bromo-4,5-methylenedioxybenzaldehyde dimethylacetal | COC(C1=C(C=C2C(=C1)OCO2)Br)OC | C10H11BrO4
reactant | 3,4-diethoxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1OCC | C11H14O3
product | 2-(3,4-dimethoxy-α-hydroxybenzyl)-4,5-methylenedioxybenzaldehyde dimethylacetal | Yield 76% | COC(C1=C(C=C2C(=C1)OCO2)C(C2=CC(=C(C=C2)OC)OC)O)OC | C19H22O7
